Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left shoulder pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ with a history of hypertension, neuropathy,
osteoarthritis, who presented to the ED with a six week history
of L shoulder pain, with outpatient imaging concerning for a 
left
scapular fracture. Per patient and family ( 2 children at
bedside), she has had 6 weeks of left shoulder pain which has
started since she had her shingles vaccination in her left arm,
which was accompanied by pain in her arm and shoulder. She
reports pain in the area throughout the last six weeks that has
worsened to the point she in unable to move her left arm. An
X-ray of her shoulder was taken at her senior living facility
___ ___ in ___) which revealed a fracture of
the superior scapular body and spine. Upon admission, her pain
was a ___. She is unable to move her arm and reports that it
has been tender to palpation.
 
Past Medical History:
Past Medical History:
CERVICAL SPONDYLOSIS                                            
NEUROPATHY                                                      
OSTEOARTHRITIS                                                  
ACROCHRODON 701.9                                               
ACTINIC KERATOSIS                                               
LENTEGINES 709.09                                               
SEBORRHEIC KERATOSIS                                            
CYST EPIDERMOID/SEB                                             
DERMATOFIBROMA                                                  
CHRONIC SUN DAMAGED SKIN                                        
HYPERTENSION                                                    
MILIUM                                                          
SEBORRHEIC KERATOSIS, INFLAMED                                  
GAIT DISORDER                                                   
FOOT PAIN                                                       
SKIN CANCERS                                                    
BRACHIORADIAL PRURITUS                                          
R ROTATOR CUFF ARTHROPATHY                                      

Past Surgical History:
SQUAMOUS CELL CARCINOMA (R Anterior Shoulder) ___      
TONSILLECTOMY                                                  
CATARACT SURGERY             
 
Social History:
___
Family History:
N/A
 
Physical Exam:
Admission Physical Exam:
Vitals: 
Gen: Generally well-appearing, though in pain.
HEENT:  Pupils round and equally reactive to light.
CV: Regular rate and rhythm, S1/S2, no murmurs, rugs, or gallops
Respiratory: Normal WOB, CTAB, no wheezing/rales/ronchi 
GI: Soft, nontender, nondistended, no rebound or guarding,
normoactive bowel sounds, no palpable masses.
MSK: Tenderness to palpation on the superior surface of the L
shoulder.
Skin: No obvious ecchymoses.
Spine: Point tenderness in the upper lumbar spine.
Extremities: 1+ pitting edema

Discharge:
24 HR Data (last updated ___ @ 2333)
    Temp: 97.8 (Tm 98.4), BP: 136/80 (94-139/52-81), HR: 85
(71-85), RR: 19 (___), O2 sat: 97% (94-97), O2 delivery: RA
Gen: [x] NAD, [] AAOx3
CV: [x] RRR, [] murmur
Resp: [x] breaths unlabored, [] CTAB, [] wheezing, [] rales
Abdomen: [x] soft, [] distended, [] tender, [] rebound/guarding
Ext: [x] warm, [] tender, [] edema; TTP over left scapula
 
Pertinent Results:
Imaging:
X-ray (___): Minimally displaced fracture involving the
superior scapular body and spine. No evidence 

___ CT Head: 
There is no evidence of acute intracranial process or 
hemorrhage. No fractures are identified. 

___ CT C-Spine:
1. No fracture or malalignment. 
2. Severe multilevel degenerative changes of the cervical spine, 
worse at C4-5 and C5-6. 

___ CT Chest:
1. Again seen is a moderately displaced, obliquely oriented 
acute fracture 
traversing near the insertion of the left scapula spine onto the 
body.  No 
other fractures seen.  However, given severe multilevel 
degenerative changes of the thoracolumbar spine, if there is 
focal point tenderness along the spine, recommend further 
evaluation with MRI. 
2. 1.1 cm right upper lobe lung nodule.  Recommend follow-up CT 
in 3 months, a PET-CT, or tissue sampling. 

___ Knee Xray:
1. No fracture or dislocation. 
2. Chronic medial femoral condyle osteochondral lesion. 

___ 08:45PM BLOOD WBC-8.8 RBC-4.07 Hgb-11.7 Hct-36.4 MCV-89 
MCH-28.7 MCHC-32.1 RDW-14.8 RDWSD-48.4* Plt ___
___ 09:02PM BLOOD ___ PTT-30.5 ___
___ 08:45PM BLOOD Glucose-126* UreaN-15 Creat-1.1 Na-136 
K-4.9 Cl-101 HCO3-23 AnGap-12
___ 08:28AM BLOOD CK(CPK)-211*
___ 08:45PM BLOOD ALT-17 AST-44* CK(CPK)-158 AlkPhos-65 
TotBili-0.5
___ 08:45PM BLOOD Lipase-17
___ 03:47PM BLOOD cTropnT-0.07*
___ 08:28AM BLOOD cTropnT-0.06*
___ 02:20AM BLOOD cTropnT-0.06*
___ 08:45PM BLOOD cTropnT-0.05*
___ 11:50PM URINE Color-Colorless Appear-CLEAR Sp 
___

Micro:
___ 11:50 pm URINE     Site: NOT SPECIFIED
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION. 
 
Brief Hospital Course:
Ms. ___ is a ___ yo F who has presents with left shoulder pain 
and an xray taken at her sernior living facility revealed a 
fracture of the superior scapular body and spine. She denies 
recent fall or trauma but did have a fall in ___ with a 
left rotator cuff injury. Orthopedic surgery was consulted and 
after reviewing imaging and physical exam, recommended 
non-operative management with a sling and weightbearing and 
mobility as tolerated. She was admitted to the trauma service 
for pain control and care planning. Pain was managed with oral 
Tylenol and a lidocaine patch. She tolerated a regular diet 
without difficulty. The patient voided without problem. During 
this hospitalization, the patient ambulated early and 
frequently, was adherent with respiratory toilet and incentive 
spirometry, and actively participated in the plan of care. The 
patient received subcutaneous heparin and venodyne boots were 
used during this stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating with assistance, voiding without assistance, 
and pain was well controlled.  The patient was discharged to a 
rehabilitation center to further assist with her mobility. A 
follow-up appointment was made with the Orthopedic service.  The 
patient received discharge teaching and follow-up instructions 
with understanding verbalized and agreement with the discharge 
plan.

 
Medications on Admission:
Medications - Prescription
ALENDRONATE - alendronate 70 mg tablet. TAKE 1 TABLET EVERY WEEK 
ONEMPTY STOMACH ON ARISING;  WAIT ___ MINUTESBEFORE     
EATING/LYING.
ATORVASTATIN - atorvastatin 80 mg tablet. TAKE 1 TABLET BY MOUTH 
EVERY DAY
METOPROLOL SUCCINATE - metoprolol succinate ER 50 mg 
tablet,extended release 24 hr. 1 tablet(s) by mouth once a day
OMEPRAZOLE - omeprazole 20 mg capsule,delayed release. 1 
CAPSULE(S) BY MOUTH ONCE A DAY
 furosemide
furosemide 20 mg tablet
1 Tablet by mouth once a day x 3 days, then ___

Medications - OTC
CALCIUM CARBONATE-VITAMIN D3 - calcium carbonate 600 mg (1,500 
mg)-vitamin D3 400 unit tablet. 1 Tablet(s) by mouth twice a day 
with food -  (OTC)
PRAMOXINE [SARNA SENSITIVE] - Sarna Sensitive 1 % lotion. Apply 
to affected twice a day as needed
VIT A,C AND E-LUTEIN-MINERALS [OCUVITE WITH LUTEIN] - Ocuvite 
with Lutein 1,000 unit-200 mg-60 unit-2mg tablet. 1 tablet(s) by 
mouth once a day -  (OTC)

 
Discharge Medications:
1.  Alendronate Sodium 70 mg PO QMON 
Takes weekly.  
2.  Atorvastatin 80 mg PO QPM  
3.  calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit oral 
DAILY  
4.  Furosemide 20 mg PO 3X/WEEK (___)  
5.  Metoprolol Succinate XL 50 mg PO DAILY  
6.  Ocuvite with Lutein (vit A,C and E-lutein-minerals) 1,000 
unit-200 mg-60 unit-2 mg oral DAILY  
7.  Omeprazole 20 mg PO DAILY  
8.  Sarna Lotion 1 Appl TP BID:PRN itching  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
left displaced scapular body fracture

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Surgery Service on ___ 
after a fall sustaining a fracture in your left scapula also 
known as the shoulder bone or shoulder blade. You were seen and 
evaluated by the orthopedic surgeon who recommend non-operative 
management with a sling for comfort. You can use your left arm 
as tolerated. You were seen by the physical therapist who 
recommend you are discharged from the hospital to rehab.

You are now doing better and ready to be discharged to rehab to 
continue your recovery. 

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. 

 
Followup Instructions:
___